US07622471B2
5-(4-Fluorophenyl)-1-(6-methoxy-3-pyridyl)pyrazole-3-carboxylic acid ethyl ester
The general procedure of Referential. Example 3-2) was repeated through use of the 5-hydrazino-2-methoxypyridine (1.0 g) prepared in Referential Example 2 and the 4-(4-fluorophenyl)-2,4-dioxobutanoic acid ethyl ester (1.88 g) prepared in Referential Example 134, to thereby give the title compound as an oily product (2.12 g, 86%).

reactant | 5-hydrazino-2-methoxypyridine | 1.0 g | N(N)C=1C=CC(=NC1)OC | C6H9N3O
reactant | 4-(4-fluorophenyl)-2,4-dioxobutanoic acid ethyl ester | 1.88 g | C(C)OC(C(CC(=O)C1=CC=C(C=C1)F)=O)=O | C12H11FO4
product | 5-(4-Fluorophenyl)-1-(6-methoxy-3-pyridyl)pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)C1=CC=C(C=C1)F)C=1C=NC(=CC1)OC | C18H16FN3O3
